US07288654B2
(S)-4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline di-p-toluoyl-D-tartrate monohydrate (479 mg) was dissolved in ethyl acetate (5 ml) and 1 N hydrochloric acid (2.44 ml), followed by separation. To the aqueous layer was added an aqueous 25% potassium carbonate solution (2.44 ml), followed by extraction with 2-propanol-ethyl acetate (1:4) twice. The organic layers were combined, washed with saturated brine and dried over magnesium sulfate, and then the solvent was distilled off under reduced pressure. To the resulting residue was added tetrahydrofuran, and then the solvent was again distilled off under reduced pressure-to give (S)-(4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline. Then, to a solution of 3-[4-(2-butoxyethoxy)phenyl]-10-isobutyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylic acid (250 mg) in dichloromethane (10 ml) were added a drop of DMF, and then oxalyl chloride (0.063 ml) at 0° C. The mixture was returned to room temperature and stirred for 30 minutes under a nitrogen atmosphere, and then the resulting solution was added dropwise to a solution of (S)-4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline and pyridine (1.16 ml) in tetrahydrofuran (10 ml) at 0° C. under a nitrogen atmosphere. The mixture was returned to room temperature and stirred overnight. Then, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water twice and saturated brine once, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and then the residue was separated and purified by basic silica gel column chromatography (ethyl acetate→methanol:ethyl acetate=3:100) to give (S)-3-[4-(2-butoxyethoxy)phenyl]-10-isobutyl-N-[4-[[(1-propyl-1H-imidazol-5-yl)methyl]sulfinyl]phenyl]-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxamide (294 mg) (Compound 1) as a yellow amorphous material.

reactant | (S)-4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline di-p-toluoyl-D-tartrate monohydrate | 479 mg | O.C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.C(CC)N1C=NC=C1C[S@](=O)C1=CC=C(N)C=C1
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline | C(CC)N1C=NC=C1CS(=O)C1=CC=C(N)C=C1 | C13H17N3OS
